* D:\00 - ITBA\Electrónica 4\Trabajos Prácticos\Circuito Ideal.asc
V1 N005 0 PULSE(0 5 0 1n 1n {0.475/60k} {1/60k})
R2 N006 N007 470
Q1 N001 N003 N004 0 BC547B
Q2 N003 N007 0 0 BC547B
R3 N001 N003 1k
R4 N004 VG 1
M1 VSW VG 0 0 IRF530
R5 N002 VSW 0.5
L1 Vd N002 220µ
D1 VSW VO MUR460
C1 VO 0 33µ
RO VO 0 150
Vd Vd 0 12
Q3 0 N003 N004 0 BC557B
R1 N006 N005 470
V2 N001 0 18
.model D D
.lib C:\Users\ohvic\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ohvic\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ohvic\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 10m 9.96m
.backanno
.end
